US07462617B2
[5-Methanesulfonyl-2-(tetrahydro-pyran-4-yl)-phenyl]-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
A suspension of [2-(3,6-Dihydro-2H-pyran-4-yl)-5-methanesulfonyl-phenyl]-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone, Example 60 (30 mg, 0.0607 mmol) in methanol (1.5 ml) was acidified to pH=1 with HCl solution in ether. The mixture was evaporated to dryness and the residue was taken up in Methanol (5 mL). Then Pd/C 10% (15 mg) was added and the mixture was hydrogenated at reflux temperature for 20 hours. The mixture was diluted with MeOH, filtered and the filtrate was concentrated in vacuo. The resulting mixture was purified on a SiO2: Eluent: Heptane/EtOAc 0% to 70% (20 minutes) then 70% (10 minutes) to provide the title compound (19 mg, white solid; Solid; M+H=497.2).

reactant | [2-(3,6-Dihydro-2H-pyran-4-yl)-5-methanesulfonyl-phenyl]-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | O1CCC(=CC1)C1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C24H25F3N2O4S
reactant | HCl | Cl | ClH
solvent | methanol | 1.5 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | [5-Methanesulfonyl-2-(tetrahydro-pyran-4-yl)-phenyl]-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 19 mg | CS(=O)(=O)C=1C=CC(=C(C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)C1CCOCC1 | C24H27F3N2O4S
